US05300687
Diethylaminoethyl ethyl 3-trifluoromethylbenzylphosphonate
Ethyl 3-trifluoromethylbenzylphosphonic acid, (7.55 g, 28 mmol) was dissolved in 100 mL of CH2Cl2 and cooled to 0° C. under nitrogen. After the oxalyl chloride (28 mmol) had been added, 0.5 mL of DMF was slowly added in 3 portions, and the resultant mixture was stirred at room temperature for 3 hours. Evaporation in vacuo gave the crude acid chloride which was dissolved in 90 mL of CH2Cl2 and added dropwise to a mixture of N,N-diethylaminoethanol (3.29 g, 28 mmol) and triethylamine (3.42 g, 34 mmol) in 60 mL of CH2Cl2 cooled at 0° C. The resultant mixture was allowed to warm to room temperature and stirred for 4 hours. Water was added (100 mL) and the aqueous phase was extracted 3 times with CH2Cl2. The combined organic extracts were dried with anhydrous Na2SO4, and evaporated to give the crude product as an oil. Purification was accomplished through column chromatography on silica gel using CH2Cl2 containing 2% MeOH and 0.1% NH3 and gave 1.1 g of the analytical product as an orange oil. D.C.I.M.S.[MH+, 368].

reactant | Ethyl 3-trifluoromethylbenzylphosphonic acid | 28 mmol, 7.55 g | C(C)OP(O)(=O)CC1=CC(=CC=C1)C(F)(F)F | C10H12F3O3P
reactant | oxalyl chloride | 28 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diethylaminoethanol | 28 mmol, 3.29 g | C(C)N(CC)C(C)O | C6H15NO
reactant | triethylamine | 34 mmol, 3.42 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | Diethylaminoethyl ethyl 3-trifluoromethylbenzylphosphonate | 1.1 g | FC(C=1C=C(CP(OCCN(CC)CC)(OCC)=O)C=CC1)(F)F | C16H25F3NO3P
